US04661489
4-Thioxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine
A mixture of 2-(triphenylmethyl)-4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine (0.66 g) and Lawesson's reagent (2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulphide) (0.29 g) in HMPA (10 ml) was heated to 80° under a nitrogen atmosphere. The mixture was stirred at this temperature for 3 hr, cooled and partitioned between water and diethyl ether. The organic layer was washed with water and evaporated to a yellow foam. This residue was dissolved in acetone (20 ml), cooled to 0° and concentrated hydrochloric acid (0.5 ml) added. After stirring at room temperature for 30 min the mixture was evaporated and the residue partitioned between dilute hydrochloric acid and chloroform. The aqueous fraction was basified with sodium carbonate and extracted with chloroform. This chloroform fraction was washed with brine, dried (K2CO3) and evaporated to give the title compound as a white solid.

reactant | 2-(triphenylmethyl)-4-oxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine | 0.66 g | C1(=CC=CC=C1)C(N1CC2N(CCCC3=C2C=CC=C3)C(C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H30N2O
reactant | Lawesson's reagent | 0.29 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 4-Thioxo-1,2,3,4,6,7,8,12b-octahydropyrazino[2,1-a][2]benzazepine | S=C1CNCC2N1CCCC1=C2C=CC=C1 | C13H16N2S
